US07968573B2
A mixture of 2.00 g of 1-(3-chloro-2-pyridinyl)-1H-pyrazole-3-carbaldehyde, 1.21 g of O-methylhydroxylamine hydrochloride and 8 ml of pyridine was heated to reflux for 1 hour. After the reaction mixture was concentrated under reduced pressure, an aqueous saturated sodium hydrogen carbonate solution was poured into the residue and the mixture was extracted with methyl t-butyl ether three times. The organic layers were combined, washed successively with water and an aqueous saturated sodium chloride solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to obtain 2.23 g of 1-(3-chloro-2-pyridinyl)-1H-pyrazole-3-carbaldehyde O-methyloxime of the formula:

reactant | 1-(3-chloro-2-pyridinyl)-1H-pyrazole-3-carbaldehyde | 2.00 g | ClC=1C(=NC=CC1)N1N=C(C=C1)C=O | C9H6ClN3O
reactant | O-methylhydroxylamine hydrochloride | 1.21 g | Cl.CON
solvent | pyridine | 8 ml | N1=CC=CC=C1 | C5H5N
product | 1-(3-chloro-2-pyridinyl)-1H-pyrazole-3-carbaldehyde O-methyloxime | 2.23 g | CON=CC1=NN(C=C1)C1=NC=CC=C1Cl | C10H9ClN4O
